US04898874
α-Methyl-3-phenyl-2,1-benzisoxazole-7-acetic acid
A mixture of 7.7 g (0.031 mole) of α-methyl-3-phenyl-2,1-benzisoxazole-7-acetonitrile, 20 ml of 20% sodium hydroxide and 150 ml of 95% ethanol was heated at reflux and under an argon atmosphere for 21 hr. The reaction mixture was poured into 1.2 liters of water and filtered. The filtrate was treated with charcoal and filtered through Celite. The filtrate pH was adjusted to 7 with concentrated hydrochloric acid and filtered. The filtrate pH was adjusted to 2 with concentrated hydrochloric acid and allowed to stand at ambient temperature. The resulting solid was collected by filtration, air-dried, and recrystallized from cyclohexane-ethyl ether to give 2.6 g (31%) of light-tan solid, m.p. 140°-144° C.

reactant | α-methyl-3-phenyl-2,1-benzisoxazole-7-acetonitrile | 0.031 mole, 7.7 g | CC(C#N)C1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C16H12N2O
reactant | sodium hydroxide | 20 ml | [OH-].[Na+]
reactant | ethanol | 150 ml | C(C)O | C2H6O
solvent | water | 1.2 liters | O | H2O
product | α-Methyl-3-phenyl-2,1-benzisoxazole-7-acetic acid | 2.6 g, 31% | CC(C(=O)O)C1=CC=CC2=C(ON=C21)C2=CC=CC=C2 | C16H13NO3
